US05610303
4-[1-Oxo-2-(1-benzylpiperidin-4-yl)methylindan-5-yl]amino-5,6-dihydro-7H-cyclopenta[d]pyrimidine (Compound III-4 in Table 2)
0.53 g of platinum oxide was added to 1.35 g of 4-[1-oxo-2-(1-benzylpiperidin-4-yl)methyleneindan-5-yl]amino-5,6-dihydro-7H-cyclopenta[d]pyrimidine dissolved in a mixed solution of 60 ml of tetrahydrofuran, 60 ml of ethanol and 1 ml of acetic acid, and the mixture was stirred under a hydrogen stream at room temperature for 8 hours. After the catalyst was removed by filtration, the filtrate was condensed. The obtained residue was applied to silica gel column chromatography to obtain 1.31 g of the title compound as pale yellow powder.

reactant | 4-[1-oxo-2-(1-benzylpiperidin-4-yl)methyleneindan-5-yl]amino-5,6-dihydro-7H-cyclopenta[d]pyrimidine | 1.35 g | O=C1C(CC2=CC(=CC=C12)NC=1C2=C(N=CN1)CCC2)=CC2CCN(CC2)CC2=CC=CC=C2 | C29H30N4O
solvent | tetrahydrofuran | 60 ml | O1CCCC1 | C4H8O
solvent | ethanol | 60 ml | C(C)O | C2H6O
solvent | acetic acid | 1 ml | C(C)(=O)O | C2H4O2
catalyst | platinum oxide | 0.53 g | [Pt]=O
product | 4-[1-Oxo-2-(1-benzylpiperidin-4-yl)methylindan-5-yl]amino-5,6-dihydro-7H-cyclopenta[d]pyrimidine | 1.31 g | O=C1C(CC2=CC(=CC=C12)NC=1C2=C(N=CN1)CCC2)CC2CCN(CC2)CC2=CC=CC=C2 | C29H32N4O
